US07790756B2
To a solution of 7-(5-amino-3-t-butyl-pyrazol-1-yl)-3,4-dihydro-2H-isoquinolin-1-one hydrochloride (0.5 g, 1.76 mmol) in CH2Cl2 (25 mL) were added pyridine (0.22 mL) and trichloroethyl chloroformate (0.27 mL) at 0° C. and the mixture was stirred overnight at RT. LCMS showed the reaction was incomplete. Pyridine (0.25 mL) and TROC-Cl (0.25 mL) were added and then the mixture stirred at RT for 2 hours. The reaction mixture was diluted with CH2Cl2, the organic layer was washed with 3M HCl and brine, dried (Na2SO4) and concentrated in vacuo. The residue was dissolved in EtOAc and hexane was added. The solid was filtered to obtain 2,2,2-trichloroethyl 3-tert-butyl-1-(1-oxo-1,2,3,4-tetrahydroisoquinolin-7-yl)-1H-pyrazol-5-ylcarbamate (0.46 g, 57% yield). MS (ESI) m/z: 458.0 (M+H+).

reactant | 7-(5-amino-3-t-butyl-pyrazol-1-yl)-3,4-dihydro-2H-isoquinolin-1-one hydrochloride | 1.76 mmol, 0.5 g | Cl.NC1=CC(=NN1C1=CC=C2CCNC(C2=C1)=O)C(C)(C)C
reactant | pyridine | 0.22 mL | N1=CC=CC=C1 | C5H5N
reactant | trichloroethyl chloroformate | 0.27 mL | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
reactant | Pyridine | 0.25 mL | N1=CC=CC=C1 | C5H5N
reactant | TROC-Cl | 0.25 mL | C(=O)(OCC(Cl)(Cl)Cl)Cl | C3H2Cl4O2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | 2,2,2-trichloroethyl 3-tert-butyl-1-(1-oxo-1,2,3,4-tetrahydroisoquinolin-7-yl)-1H-pyrazol-5-ylcarbamate | 0.46 g, 57% yield | C(C)(C)(C)C1=NN(C(=C1)NC(OCC(Cl)(Cl)Cl)=O)C1=CC=C2CCNC(C2=C1)=O | C19H21Cl3N4O3
